US04889410
3,3-Diisobutyl-1,2-dimethyl-(3H)-indolium Iodide.
3,3-Diisobutyl-2-methyl-(3H)-indole (2.43 g, 0.01 mole) and methyl iodide (3 g, excess) were heated in a flask with condenser on a steam bath for 30 min. The excess methyl iodide was evaporated, and the resulting syrup was dissolved in a small amount of methanol and diluted to 350 mL with ether while stirring in a beaker. After stirring for 20 min., the product was filtered, washed with ether, and dried to give 3.0 g (77.8%). The NMR was good. (MW 385.33)

reactant | 3,3-Diisobutyl-2-methyl-(3H)-indole | 0.01 mole, 2.43 g | C(C(C)C)C1(C(=NC2=CC=CC=C12)C)CC(C)C | C17H25N
reactant | methyl iodide | 3 g | CI | CH3I
product | 3,3-Diisobutyl-1,2-dimethyl-(3H)-indolium Iodide | [I-].C(C(C)C)C1(C(=[N+](C2=CC=CC=C12)C)C)CC(C)C | InChI=1S/C18H28N.HI/c1-13(2)11-18(12-14(3)4)15(5)19(6)17-10-8-7-9-16(17)18;/h7-10,13-14H,11-12H2,1-6H3;1H/q+1;/p-1
